US09388173B2
To a solution of N-benzyl-5-bromo-2-nitroaniline (700 mg, 2.28 mmol) in EtOH (8 mL) and water (8 mL) was added iron powder (766 mg, 13.7 mmol) and NH4Cl (733 mg, 13.7 mmol). The mixture was stirred at 60° C. for 4 h. The reaction solution was filtered with the filtrate concentrated to remove EtOH. The residue was diluted with water and extracted with EtOAc with the organic layer concentrated to give the crude N1-benzyl-5-bromobenzene-1,2-diamine. The crude product was used in next step without further purification. LCMS (m/z): 277.1/278.1 [M+H]+/[M+2H]+

reactant | N-benzyl-5-bromo-2-nitroaniline | 2.28 mmol, 700 mg | C(C1=CC=CC=C1)NC1=C(C=CC(=C1)Br)[N+](=O)[O-] | C13H11BrN2O2
reactant | NH4Cl | 13.7 mmol, 733 mg | [NH4+].[Cl-]
solvent | EtOH | 8 mL | CCO | C2H6O
solvent | water | 8 mL | O | H2O
catalyst | iron | 13.7 mmol, 766 mg | [Fe] | Fe
product | N1-benzyl-5-bromobenzene-1,2-diamine | C(C1=CC=CC=C1)NC=1C(=CC=C(C1)Br)N | C13H13BrN2
